US07265120B2
Under ice-cooling, triethylamine (2.79 ml) was added dropwise to a suspension of 6-(1-amino-2-oxo-2-phenylethyl)-2-isopropyl-3(2H)-pyridazinone hydrochloride (3.08 g) and dimethyl dicarbonate (2.01 g) in CH2Cl2 (30 ml) and stirred at the same temperature for 40 minutes. The mixture was washed with 1N HCl and sat. aq. NaHCO3 solution, dried over MgSO4 and concentrated under reduced pressure to give a residue. The residue was subjected to column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (30:70 v/v) to give methyl [1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-2-phenylethyl]carbamate as a syrup (2.96 g).

reactant | triethylamine | 2.79 ml | C(C)N(CC)CC | C6H15N
reactant | 6-(1-amino-2-oxo-2-phenylethyl)-2-isopropyl-3(2H)-pyridazinone hydrochloride | 3.08 g | Cl.NC(C(C1=CC=CC=C1)=O)C=1C=CC(N(N1)C(C)C)=O
reactant | dimethyl dicarbonate | 2.01 g | C(=O)(OC)OC(=O)OC | C4H6O5
reactant | n-hexane | CCCCCC | C6H14
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl [1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-2-phenylethyl]carbamate | 2.96 g | C(C)(C)N1N=C(C=CC1=O)C(C(C1=CC=CC=C1)=O)NC(OC)=O | C17H19N3O4
